US08207373B2
Stage 1: (4-Benzyloxy-phenyl)-(2-nitro-phenyl)-amine
To 600 μL of 2-fluoro-nitrobenzene, 6 mL of DMSO are added 1.7 g of 4-(benzyloxy)aniline (1.5 equivalents) and 1.02 g of potassium tert-butanolate (1.6 equivalents). The whole is heated to 110° C. for 1 h 30. The medium is then hydrolyzed and extracted several times with ethyl acetate. The organic phases are washed with a saturated solution of sodium chloride, dried on magnesium sulfate, filtered and then concentrated under reduced pressure. A silica gel chromatography of the residue (cyclohexane/ethyl acetate: 99/1) allows 754 mg of the desired product to be isolated.

reactant | 2-fluoro-nitrobenzene | 600 μL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-(benzyloxy)aniline | 1.7 g, 1.5 equivalents | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | potassium tert-butanolate | 1.02 g, 1.6 equivalents | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | (4-Benzyloxy-phenyl)-(2-nitro-phenyl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C19H16N2O3
